US08012976B2
Benzyl 2-(4-formylphenyl)pyrrolidine-1-carboxylate
To a 50 mL round-bottomed flask were placed Pd (PPh3)2Cl2 (70 mg, 0.1 mmol), and sodium formate (510 mg, 7.5 mmol) and purged with carbon monoxide. DMF (7 mL) and benzyl 2-(4-bromophenyl)pyrrolidine-1-carboxylate (1.8 g, 5 mmol) were added via syringes. The mixture was vigorously stirred at 100° C. under carbon monoxide atmosphere for 8 hrs. Then the reaction mixture was cooled to room temperature and partitioned between ether (100 mL) and water (15 mL). The organic phase was washed with water (3×15 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (silica gel, EtOAc:hexane=1:10) to give the title compound (0.31 g, yield 20%) as a colorless oil. LC-MS (ESI) m/z: 309 (M+1)+; 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 1.73-1.88 (m, 3H), 2.31-2.41 (m, 1H), 3.57-3.67 (m, 2H), 4.84-5.06 (m, 3H), 6.84-6.86 (m, 1H), 7.12-7.34 (m, 4H), 7.41-7.43 (d, J=8.0 Hz, 2H), 7.85-7.87 (d, J=8.0 Hz, 2H), 9.98-9.99 (d, J=6.0 Hz, 1H).

reactant | sodium formate | 7.5 mmol, 510 mg | C(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | benzyl 2-(4-bromophenyl)pyrrolidine-1-carboxylate | 5 mmol, 1.8 g | BrC1=CC=C(C=C1)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C18H18BrNO2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | Benzyl 2-(4-formylphenyl)pyrrolidine-1-carboxylate | 0.31 g, yield 20% | C(=O)C1=CC=C(C=C1)C1N(CCC1)C(=O)OCC1=CC=CC=C1 | C19H19NO3
